US07378525B2
4-(1-Butyryl-piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid (tetrahydro-pyran-4-yl)-amide (F-24)
The title compound was prepared according to the general procedure in Scheme 11, substituting 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid (tetrahydro-pyran-4-yl)-amide for 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide, and butyryl chloride for ethyl chloroformate. Wt.: 30 mg (19%). 1H NMR (300 MHz, CDCl3) δ 8.67 (d, 1H), 8.26 (d, 1H), 8.13 (d, 1H), 7.67 (m, 2H), 7.52 (d, 1H), 6.68 (m, 1H), 5.28 (m, 1H), 4.32 (m, 1H), 4.05 (m, 3H), 3.15 (m, 1H), 2.46 (m, 1H), 2.10 (m, 4H), 1.65 (m, 4H), 1.49 (m, 2H), 1.18 (m, 1H), 9.95 (m, 1H), 0.88 (t, 3H); LC/MS m/z 488 (M+H)+.

reactant | 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=CC=C(C2=CC=CC=C12)S(NC1CCNCC1)(=O)=O | C22H29N3O3S
reactant | butyryl chloride | C(CCC)(=O)Cl | C4H7ClO
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 4-(1-Butyryl-piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid (tetrahydro-pyran-4-yl)-amide | O1CCC(CC1)NC(=O)C1=CC=C(C2=CC=CC=C12)S(NC1CCN(CC1)C(CCC)=O)(=O)=O | C25H33N3O5S
